Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine
 
Attending: ___.
 
Chief Complaint:
Dyspnea and melena 
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ F with history of stage IV non-small 
cell lung cancer, CAD and CKD who presents with dyspnea, 
productive cough and melena. Patient has had ___ days of melena 
without abdominal pain and dyspnea with worsening cough for the 
past day. She denies fevers or chest pain.  
.  
In the ER, initial vitals were 97.2, 89, 156/53, 22, 86% 4L. Her 
hct was 22 from recent baseline of 25 (she has transfusion 
dependent anemia), and she initially was hypoxic. ABG was 
7.29/64/42/32 and lactate was 2.4. Patient responded to nebs, 
stress dose steroids, levaquin and ceftriaxone with improvement 
in her sats to mid ___ on 5L NC. She was started on IV PPI for 
her guaiac positive dark brown stool. CXR showed large R pleural 
effusion and questionable L lower lobe collapse. EKG showed 
sinus tach with ST depressions in V2-6. Vitals on transfer to 
the MICU were 97.2, 105, 127/50, 29, 96% 5L NC.  
.  
In the MICU, she reports feeling better after her breathing 
treatments today. She cannot recall when her difficulty 
breathing started and per her family, she has difficulty hearing 
but no memory loss. Patient had intermittent dyspnea for weeks 
for which she previously took codeine syrup but then a period of 
improvement. She developed worsening dypsnea and cough yesterday 
without fevers, chills or chest pain. She denies prior history 
of melena but has had stable nausea and poor appetite for 
months. No heartburn or dysphagia.  

 
Past Medical History:
Stage IV nonsmall cell lung cancer, adenocarcinoma, EGFR 
wild-type, KRAS mutated  
CAD s/p CABG in ___, MI ___ s/p PCI to LAD.  
Chronic renal insufficiency - Patient with GFR < 50.  
CVA - small left posterior frontal infarct in ___.  
Hypercholesterolemia.  
Macular Degeneration  

 
Social History:
___
Family History:
Her father died due to CAD at age ___. Her mother had stomach  
cancer and osteosarcoma.  

 
Physical Exam:
General: Elderly, chronically ill appearing female in NAD  
HEENT: NC/AT, EOMI, sclera anicteric, MMM  
Neck: supple, JVP not elevated, 1+ firm bilateral submandibular 
LAD  
Lungs: Decreased percussion ___ way up right lung with decreased 
breath sounds, L basalar crackles, upper lobes with some mild 
wheezing  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops appreciated  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  

Discharge:
expired
 
Pertinent Results:
___ 07:42PM BLOOD WBC-9.8# RBC-2.60* Hgb-7.5* Hct-22.4* 
MCV-86 MCH-28.7 MCHC-33.3 RDW-18.8* Plt ___
___ 07:42PM BLOOD Neuts-83.0* Lymphs-8.5* Monos-5.7 Eos-2.4 
Baso-0.4
___ 07:42PM BLOOD ___ PTT-24.5 ___
___ 07:42PM BLOOD Glucose-133* UreaN-45* Creat-1.4* Na-120* 
K-5.7* Cl-85* HCO3-26 AnGap-15
___ 07:42PM BLOOD ALT-20 AST-24 LD(LDH)-297* CK(CPK)-73 
AlkPhos-81 TotBili-0.3
___ 07:42PM BLOOD CK-MB-4 cTropnT-<0.01
___ 02:04AM BLOOD CK-MB-10 MB Indx-10.1* cTropnT-0.05*
___ 11:02PM BLOOD Calcium-8.4 Phos-2.6* Mg-1.8
___ 07:42PM BLOOD Osmolal-268*
___ 07:42PM BLOOD ___ pO2-42* pCO2-64* pH-7.29* 
calTCO2-32* Base XS-1 Comment-GREEN TOP
___ 12:15AM BLOOD Type-ART pO2-55* pCO2-43 pH-7.32* 
calTCO2-23 Base XS--3
___ 04:39AM BLOOD Lactate-4.2*
___ 01:46AM BLOOD Lactate-5.9*
___ 12:15AM BLOOD Lactate-7.7*
___ 07:42PM BLOOD Lactate-2.4*
___ 12:58AM URINE Color-Straw Appear-Clear Sp ___
___ 12:58AM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.0 Leuks-NEG
___ 12:58AM URINE RBC-1 WBC-<1 Bacteri-NONE Yeast-NONE 
Epi-<1
___ 12:58AM URINE CastGr-1* CastHy-1*
___ 12:58AM URINE Hours-RANDOM Creat-65 Na-21 K-37 Cl-19
___ 12:58AM URINE Osmolal-469

PCXR: Interval enlargement of the now massive right pleural 
effusion.  
Denser and larger consolidation of the left lung, possibly 
extension of tumor or focal, acute infiltrate, or combination 
thereof. 

 
Brief Hospital Course:
The patient was admitted to the MICU and placed on BiPAP for 
comfort. Her outpt. oncologist was contacted overnight. She 
underwent thoracentesis for palliation with significant volume 
taken off. Palliative care was consulted and the decision was 
made to focus on comfort. Her oncologist visited with her and 
her family. SHe was transitioned out of the ICU and expired on 
the floor soon after. 
 
Medications on Admission:
Robitussin with codeine ___ tsp QHS  
ATORVASTATIN [LIPITOR] - 80 mg Tablet - one Tablet(s) by mouth  
one daily - No Substitution  
BENZONATATE - 100 mg Capsule - 1 Capsule(s) by mouth three times 
 
a day  
CALCITRIOL - 0.25 mcg Capsule - 1 Capsule(s) by mouth every 
other  
day  
CITALOPRAM - (Prescribed by Other Provider) - 10 mg Tablet - 1  
Tablet(s) by mouth once a day  
CLOPIDOGREL [PLAVIX] - (Prescribed by Other Provider) - 75 mg  
Tablet - 1 Tablet(s) by mouth once a day  
FOLIC ACID - 1 mg Tablet - one Tablet(s) by mouth one daily - No 
 
Substitution  
LORAZEPAM - 0.5 mg Tablet - ___ Tablet(s) by mouth q6 hours as  
needed for Nausea  
METOPROLOL TARTRATE [LOPRESSOR] - (Prescribed by Other Provider) 
 
- 50 mg Tablet - one Tablet(s) by mouth ___ BID - No 
Substitution  
TRAMADOL - (Prescribed by Other Provider) - 50 mg Tablet - 0.5  
(One half) Tablet(s) by mouth three times a day as needed for  
Pain  
TRAZODONE - 50 mg Tablet - one Tablet(s) by mouth one daily as  
needed - No Substitution  
ASPIRIN - (Prescribed by Other Provider: ___.) - 81 
 
mg Tablet, Chewable - 1 Tablet(s) by mouth one daily - No  
Substitution  
RANITIDINE HCL [ACID CONTROL] - 150 mg Tablet - one Tablet(s) by 
 
mouth one daily - No Substitution  
 
Discharge Medications:
N/A
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
1. Non small cell lung cancer
2. Melena
 
Discharge Condition:
Expired
 
Discharge Instructions:
N/A
 
Followup Instructions:
___